US04857390
2,6-dimethylphenol;
2,6-diaurylphenol; 2,6-dipropylphenol; 2,6-diphenylphenol;

reactant | 2,6-dipropylphenol | C(CC)C1=C(C(=CC=C1)CCC)O | C12H18O
reactant | 2,6-diphenylphenol | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)O | C18H14O
product | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
